US05344843
A stirred mixture of 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester (3.62 g) in dimethylformamide (40 mL) under argon was treated with 55% sodium hydride (0.875 g), stirred for 15 minutes and treated with the mesylate of 2-(2-naphthyloxy)ethanol (5.48 g). The mixture was heated at 60° C. overnight and worked up as in Example 20. The material from dichloromethane extraction was crystallized from dichloromethane-hexane to provide 4.2 g of 4-[[2-(2-naphthalenyloxy)ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester, mp 155°-157° C.

reactant | 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester | 3.62 g | COC(C(C1=CC=C(C=C1)O)=O)=O | C9H8O4
reactant | sodium hydride | 0.875 g | [H-].[Na+]
reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | 2-(2-naphthyloxy)ethanol | 5.48 g | C1=C(C=CC2=CC=CC=C12)OCCO | C12H12O2
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 4-[[2-(2-naphthalenyloxy)ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester | 4.2 g | COC(C(C1=CC=C(C=C1)OCCOC1=CC2=CC=CC=C2C=C1)=O)=O | C21H18O5
